US06002008
6-Amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile
A mixture of 5.360 g (15.6 mmol) 4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol, and 17.67 g (78.2 mmol) SnCl2 dihydrate was heated to reflux under N2. Removed heat at 1.5 hours and added ice water. Made basic with sodium bicarbonate. Stirred for 2 hours extracted with chloroform. Added brine to the separatory funnel to help separate layers. Stirred organic layer with Darco and dried with sodium sulfate. Filtered, stripped solvent and dried in vacuo, giving 4.460 g of yellow-brown solid: mass spectrum (electrospray m/e): M+H=312.9, 315.0.

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 15.6 mmol, 5.360 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8ClFN4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile | 4.460 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)Cl | C16H10ClFN4
